US07777047B2
N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of triphenylphosphine oxide (3.09 g) in acetonitrile (20 ml) was slowly added trifluoromethanesulfonic anhydride (0.93 ml) at 0° C., and the mixture was stirred for 10 min. tert-Butyl 4-{2-(benzylthio)-2-methyl-3-[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]propyl}piperazine-1-carboxylate (1.55 g) was added, and the reaction mixture was stirred at 0° C. for 30 min. Saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried (MgSO4). 4N Hydrogen chloride-ethyl acetate solution was added to the ethyl acetate layer, and the precipitated solid was collected by filtration, and washed with ethyl acetate. The obtained solid was suspended in saturated aqueous sodium hydrogencarbonate, and the mixture was stirred for 30 min. The solid was collected by filtration, washed with water and ethyl acetate, and dried to give the title compound (0.49 g, yield 45%) as colorless crystals. melting point 178-180° C.

reactant | triphenylphosphine oxide | 3.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.93 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-Butyl 4-{2-(benzylthio)-2-methyl-3-[({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)amino]propyl}piperazine-1-carboxylate | 1.55 g | C(C1=CC=CC=C1)SC(CN1CCN(CC1)C(=O)OC(C)(C)C)(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C | C34H43N5O5S3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.49 g, yield 45% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)(CN1CCNCC1)C | C22H27N5O2S3
